US05300477
To a solution of 1.81 g (6.1 mmol) of 6-ethoxycarbonyl-5-methyl-2-phenyl-3-propargyl-4(3H)-pyrimidinone in 100 mL of ethanol and 50 mL of THF was added 50 mL of 5% aqueous sodium hydroxide. The mixture was stirred at room temperature for 24 h and rotovapped to remove the bulk of the organic solvents. The residue was diluted with 50 mL of 5% aqueous sodium hydroxide and washed with 100 mL of ether. The aqueous phase was acidified with concentrated hydrochloric acid and extracted with two 100 mL portions of ethyl acetate. The combined ethyl acetate extracts were washed with 50 mL of brine, dried over MgSO4 and concentrated to leave 0.87 g (53%) of crude 6-carboxy-5-methyl-2-phenyl-3-propargyl-4(3H)-pyrimidinone as a brown oil.

reactant | 6-ethoxycarbonyl-5-methyl-2-phenyl-3-propargyl-4(3H)-pyrimidinone | 6.1 mmol, 1.81 g | C(C)OC(=O)C1=C(C(N(C(=N1)C1=CC=CC=C1)CC#C)=O)C | C17H16N2O3
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-carboxy-5-methyl-2-phenyl-3-propargyl-4(3H)-pyrimidinone | 0.87 g, 53% | C(=O)(O)C1=C(C(N(C(=N1)C1=CC=CC=C1)CC#C)=O)C | C15H12N2O3
